US05449783
2.5 g of methanesulfonyl chloride was dropped into a solution of 5.0 g of 2-amino-4,5-diphenylthiazole and 3.3 ml of pyridine in dichloromethane under stirring at room temperature, and the resulting mixture was stirred as such overnight. Then the reaction mixture was successively washed with diluted hydrochloric acid, a saturated aqueous solution of sodium hydrogencarbonate and water in this order and dried over anhydrous magnesium sulfate. After distilling off the solvent under reduced pressure, the reaction product was separated with a silica gel column by using isopropyl ether and ethyl acetate as a developer. The crystals thus obtained were recovered by filtration from isopropyl ether and washed with diethyl ether to give 1.6 g of 2-methanesulfonylamino-4,5-diphenylthiazole. The melting point of this product was from 225° to 227° C.

reactant | methanesulfonyl chloride | 2.5 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | 2-amino-4,5-diphenylthiazole | 5.0 g | NC=1SC(=C(N1)C1=CC=CC=C1)C1=CC=CC=C1 | C15H12N2S
reactant | pyridine | 3.3 ml | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-methanesulfonylamino-4,5-diphenylthiazole | 1.6 g | CS(=O)(=O)NC=1SC(=C(N1)C1=CC=CC=C1)C1=CC=CC=C1 | C16H14N2O2S2
